US04808608
6-fluoro-9-isopropyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid
Following the procedure of Example 1, but using 1-(2-propyl)-1-(4-fluorophenyl)hydrazine hydrochloride and ethyl 2-cyclohexanone acetate as starting materials, the title compound was prepared.

reactant | 1-(2-propyl)-1-(4-fluorophenyl)hydrazine hydrochloride | Cl.CC(C)N(N)C1=CC=C(C=C1)F
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | 6-fluoro-9-isopropyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid | FC=1C=C2C=3CCCC(C3N(C2=CC1)C(C)C)CC(=O)O | C17H20FNO2
